US06136157
N,N-Dimethyl-2-[2-(2-naphthyl)ethenyloxy]ethanamine.
Table 1, Entry 7. In the reaction tube were mixed 2-naphthyl triflate (0.276 g, 1.0 mmol), [2-(dimethylamino)ethoxy]ethene (0.23 g, 2.0 mmol), palladium acetate (0.00673 g, 0.030 mmol), triphenylphosphine (0.0173 g, 0.066 mmol) triethylamine (0.202 g, 2.0 mmol) and 0.75 ml DMF.under nitrogen. The contents of the flask were irradiated for 7.00 min with an effect of 35 W. After cooling, the product mixture was diluted with 50 ml pentane, transferred to a separatory funnel and washed with 2×25 ml water. Additional extraction of the aqueous phases was performed with 25 ml pentane. The combined organic portions were then treated 5 times with 20 ml of 0.1 M HCl. The aqueous extracts were combined, poured into a flask containing excess NaOH (1.0 M) and was extracted with 2×50 ml pentane. The combined organic phases were dried (K2CO3) and concentrated by evaporation. The yield was 87% (yellow oil, trans/cis 1/1).

reactant | 2-naphthyl triflate | 1.0 mmol, 0.276 g | O(S(=O)(=O)C(F)(F)F)C1=CC2=CC=CC=C2C=C1 | C11H7F3O3S
reactant | [2-(dimethylamino)ethoxy]ethene | 2.0 mmol, 0.23 g | CN(CCOC=C)C | C6H13NO
reactant | triphenylphosphine | 0.066 mmol, 0.0173 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DMF | 0.75 ml | CN(C)C=O | C3H7NO
solvent | pentane | 50 ml | CCCCC | C5H12
catalyst | palladium acetate | 0.030 mmol, 0.00673 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N,N-Dimethyl-2-[2-(2-naphthyl)ethenyloxy]ethanamine | yield was 87% | CN(CCOC=CC1=CC2=CC=CC=C2C=C1)C | C16H19NO
